US04677219
To a mixture of 2,6-dibromo-3-nitrotoluene (1.0 g, 3.4 mmol) in 14 ml of N-methylpyrrolidinone was added 0.323 g of freshly prepared copper (I) cyanide. The reaction was stirred and heated at a temperature of 150° C. under a nitrogen atmosphere for a period of three hours. After this period, the reaction mixture was cooled to room temperature, diluted with dichloromethane, and washed with 10% aqueous sodium thiosulfate solution. The organic layer was separated, dried, and concentrated under vacuum to remove the solvent. The residue was chromatographed on silica gel, eluting with 20% ethyl acetate/80% hexane, to afford 0.293 g of 3-bromo-2-methyl-6-nitrobenzonitrile as a yellow-white crystalline solid, mp 116°-118° C.

reactant | 2,6-dibromo-3-nitrotoluene | 3.4 mmol, 1.0 g | BrC1=C(C(=CC=C1[N+](=O)[O-])Br)C | C7H5Br2NO2
reactant | copper (I) cyanide | [Cu]C#N
solvent | N-methylpyrrolidinone | 14 ml | CN1C(CCC1)=O | C5H9NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-bromo-2-methyl-6-nitrobenzonitrile | 0.293 g | BrC=1C(=C(C#N)C(=CC1)[N+](=O)[O-])C | C8H5BrN2O2
